US04144338
Following the procedure of Example 1 part A using 2-acetamido-4-methyl-6-dimethylaminopyrimidine and 2-methyl-2-dimethylaminopropyl chloride hydrochloride, there is obtained 2-(2-methyl-2-dimethylaminopropylamino)-4-methyl-6-dimethylaminopyrimidine.

reactant | 2-acetamido-4-methyl-6-dimethylaminopyrimidine | C(C)(=O)NC1=NC(=CC(=N1)C)N(C)C | C9H14N4O
reactant | 2-methyl-2-dimethylaminopropyl chloride hydrochloride | Cl.CC(CCl)(C)N(C)C
product | 2-(2-methyl-2-dimethylaminopropylamino)-4-methyl-6-dimethylaminopyrimidine | CC(CNC1=NC(=CC(=N1)C)N(C)C)(C)N(C)C | C13H25N5
